US04230703
Synthesis of 5,6-dihydro-5-n-propyl-11-oxodibenz[b,e]azepine-2-acetic acid
A mixed liquid of methyl 5,6-dihydro-5-n-propyl-11-oxodibenz[b,e]azepine-2-acetate (0.5 g), sodium hydroxide (2 g), methanol (20 ml) and water (10 ml) was treated in the same manner as described in Example 21 to afford the desired compound (0.38 g) as yellow powdery crystals.

reactant | methyl 5,6-dihydro-5-n-propyl-11-oxodibenz[b,e]azepine-2-acetate | 0.5 g | C(CC)N1C2=C(C(C3=C(C1)C=CC=C3)=O)C=C(C=C2)CC(=O)OC | C20H21NO3
reactant | sodium hydroxide | 2 g | [OH-].[Na+]
reactant | methanol | 20 ml | CO | CH4O
solvent | water | 10 ml | O | H2O
product | 5,6-dihydro-5-n-propyl-11-oxodibenz[b,e]azepine-2-acetic acid | 0.38 g | C(CC)N1C2=C(C(C3=C(C1)C=CC=C3)=O)C=C(C=C2)CC(=O)O | C19H19NO3
